US07569578B2
(R)-2-Hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoic acid
To a solution of (R)-methyl 2-acetoxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoate (2.70 g, 8.4 mmol) in tetrahydrofuran (20 mL) and methanol (20 mL) at 0° C. was added a solution of lithium hydroxide monohydrate (1.41 g, 4.0 equiv) in water (20 mL). The reaction was stirred at 0° C. for 1 h. The reaction was concentrated, dissolved in water (5 mL), cooled to 0° C., and treated with 1 M hydrochloric acid until mildly acidic. The solution was extracted extensively with ethyl acetate and then dichloromethane. The organics were combined, dried over magnesium sulfate, and concentrated to give 1.40 g (63%) as an oil which solidified to a crystalline solid upon standing. 1H-NMR (CDCl3, 500 MHz) δ 2.40 (s, 3H), 2.78 (dd, J=14.0, 7.9, 1H), 3.00 (dd, J=14.0, 4.0, 1H), 3.18 (s, 3H), 4.24 (dd, J=7.9, 4.3, 1H), 5.47 (s, 2H), 6.85 (s, 1H), 7.22 (s, 1H), 7.90 (s, 1H). Mass spec.: 265.08 (MH)+.

reactant | (R)-methyl 2-acetoxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoate | 8.4 mmol, 2.70 g | C(C)(=O)O[C@@H](C(=O)OC)CC1=CC2=CN(N=C2C(=C1)C)COC | C16H20N2O5
reactant | lithium hydroxide monohydrate | 1.41 g, 4.0 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (R)-2-Hydroxy-3-(2-(methoxymethyl)-7-methyl-2H-indazol-5-yl)propanoic acid | O[C@@H](C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COC | C13H16N2O4
